US09079878B2
2-[4-(Difluoromethoxy)phenyl]-2-oxoethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate
Prepared by Method E using (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid (Preparation 25, 0.3 g, 1.13 mmol) and 2-bromo-1-[4-(difluoromethoxy)phenyl]ethanone (0.315 g, 1.19 mmol) to afford the title compound.

reactant | (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid | 1.13 mmol, 0.3 g | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)O | C13H15NO5
reactant | 2-bromo-1-[4-(difluoromethoxy)phenyl]ethanone | 1.19 mmol, 0.315 g | BrCC(=O)C1=CC=C(C=C1)OC(F)F | C9H7BrF2O2
product | 2-[4-(Difluoromethoxy)phenyl]-2-oxoethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)OCC(=O)C1=CC=C(C=C1)OC(F)F | C22H21F2NO7
